US07612055B2
An ice cold solution of 0.584 g (6.66 mmol) 4-penten-1-ol and 1.11 ml (14.0 mmol) pyridine in 5 ml DCM is treated with 0.866 ml (6.77 mmol) benzene sulfonyl chloride. After 30 minutes at 0° C. the mixture is stirred overnight at rt. The mixture is diluted with DCM, washed with 5% aqueous citric acid, water and 5% aqueous NaHCO3, dried with sodium sulfate and evaporated, yielding the benzenesulfonic acid pent-4-enyl ester as a colorless oil that is used without further purification.

reactant | 4-penten-1-ol | 6.66 mmol, 0.584 g | C(CCC=C)O | C5H10O
reactant | pyridine | 14.0 mmol, 1.11 ml | N1=CC=CC=C1 | C5H5N
reactant | benzene sulfonyl chloride | 6.77 mmol, 0.866 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | benzenesulfonic acid pent-4-enyl ester | C(CCC=C)OS(=O)(=O)C1=CC=CC=C1 | C11H14O3S
